US05216167
(a) Ethyl 2-allyloxy-4[N-(α-phenyl-2-piperidino-benzyl)aminocarbonylmethyl]-benzoate
Prepared from ethyl 2-hydroxy-4-[N-(α-phenyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate, using allyl bromide.

reactant | ethyl 2-hydroxy-4-[N-(α-phenyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate | OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C1=CC=CC=C1 | C29H32N2O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | Ethyl 2-allyloxy-4[N-(α-phenyl-2-piperidino-benzyl)aminocarbonylmethyl]-benzoate | C(C=C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C1=CC=CC=C1 | C32H36N2O4
